US05922763
(20) 4-cyano-4'-[[N-(3-methoxycarbonylpropyl)-N-methylamino]sulphonyl]biphenyl
(prepared from 4-cyano-4'-[(3-methoxycarbonylpropyl)-aminosulphonyl]biphenyl by methylation with methyl iodide)

reactant | 4-cyano-4'-[(3-methoxycarbonylpropyl)-aminosulphonyl]biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NCCCC(=O)OC | C18H18N2O4S
reactant | methyl iodide | CI | CH3I
product | 4-cyano-4'-[[N-(3-methoxycarbonylpropyl)-N-methylamino]sulphonyl]biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N(C)CCCC(=O)OC | C19H20N2O4S
